US09421205B2
(d) tert-Butyl 3-(4-((4-(2-(3-(2-amino-2-oxoethyl)pyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I150)
1-Hydroxybenzotriazole (20 mg, 0.15 mmol), EDCl.HCl (32 mg, 0.17 mmol) and N,N-diisopropylethylamine (45 μL, 0.26 mmol) were added to a solution of 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)pyridin-3-yl)acetic acid (1149) (29 mg, 0.051 mmol) in dry DMF (5 mL) under an atmosphere of nitrogen. Ammonium carbonate (50 mg, 0.52 mmol) was added in one portion after 10 minutes then stirring was continued at room temperature for 17 hours. Further portions of 1-hydroxybenzotriazole (20.0 mg, 0.15 mmol), EDCl.HCl (32 mg, 0.17 mmol) and N,N-diisopropylethylamine (45 μL, 0.26 mmol) were added, then ammonium carbonate (50 mg, 0.52 mmol) was added in one portion after 10 min. The resulting solution was stirred at 25° C. for 24 hours. The volatiles were removed in vacuo and the residue was partitioned between ethyl acetate (I0 mL) and saturated sodium hydrogen carbonate (10 mL). The aqueous layer was extracted with ethyl acetate (2×10 mL) then the combined organic layers were washed with brine (10 mL), dried (MgSO4) and evaporated to dryness. The residue was chromatographed (Biotage Isolera: 10 g silica cartridge, 0-100% EtOAc/petroleum benzine 40-60° C. then 10 g silica cartridge, 50-100% EtOAc/petroleum benzine 40-60° C.) to give the title compound (I150) (0.023 g, 77%) as a white solid; 1H NMR (400 MHz, CDCl3) δ 8.49 (s, 1H), 8.46 (dd, J=4.8, 1.6 Hz, 1H), 7.77 (br s, 1H), 7.57-7.44 (m, 3H), 7.19 (d, J=8.5 Hz, 2H), 7.14 (dd, J=7.6, 4.8 Hz, 1H), 5.63 (d, J=22.0 Hz, 2H), 4.35-3.96 (m), 3.67 (s, 2H), 3.41-3.33 (m, 2H), 3.27 (t, J=6.9 Hz, 2H), 2.83-2.58 (m, 3H), 2.01-1.99 (m, 1H), 1.80-1.71 (m, 1H), 1.68 (s, 3H), 1.65-1.52 (m, 2H), 1.46 (s, 9H).

reactant | 1-Hydroxybenzotriazole | 0.15 mmol, 20 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 0.17 mmol, 32 mg | Cl | ClH
reactant | N,N-diisopropylethylamine | 0.26 mmol, 45 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)pyridin-3-yl)acetic acid | 0.051 mmol, 29 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=NC=CC=C1CC(=O)O)C(F)(F)F | C30H34F3N5O4
reactant | Ammonium carbonate | 0.52 mmol, 50 mg | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | 1-hydroxybenzotriazole | 0.15 mmol, 20.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | HCl | 0.17 mmol, 32 mg | Cl | ClH
reactant | N,N-diisopropylethylamine | 0.26 mmol, 45 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonium carbonate | 0.52 mmol, 50 mg | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(4-((4-(2-(3-(2-amino-2-oxoethyl)pyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | NC(CC=1C(=NC=CC1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C)=O | C30H35F3N6O3
